US08022065B2
5-Fluoro-2-nitrobenzaldehyde
Dissolve (5-fluoro-2-nitrophenyl)methanol (13.92 g, 81.08 mmol) in dichloromethane (284 mL). Add 4 Å molecular sieves (73 g) and pyridinium dichromate (36.58 g, 97.3 mmol). Stir the mixture at 20° C. for 6 hours. Filter the crude reaction mixture through a short silica gel column. Remove the solvent under reduced pressure and purify the residue by flash chromatography (silica gel, 10-20% ethyl acetate/hexane) to obtain 9.43 g (69%) of title compound as colorless oil.

reactant | (5-fluoro-2-nitrophenyl)methanol | 81.08 mmol, 13.92 g | FC=1C=CC(=C(C1)CO)[N+](=O)[O-] | C7H6FNO3
reactant | pyridinium dichromate | 97.3 mmol, 36.58 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | dichloromethane | 284 mL | ClCCl | CH2Cl2
product | 5-Fluoro-2-nitrobenzaldehyde | 9.43 g, 69% | FC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C7H4FNO3
